US08242145B2
Step 5: {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester
To 2-oxazolidone (0.69 g, 8.0 mmol) in 1,4-dioxane (30 mL) under N2 was added sodium hydride (60% in mineral oil; 0.38 g, 9.4 mmol). After stirring for 15 minutes, [3-(4-bromo-2-bromomethyl-phenoxy)-phenyl]-acetic acid methyl ester (3 g, 7.2 mmol) was added, and the reaction was stirred for 24 hours at room temperature. Once no starting material was seen by analytical LCMS, the mixture was worked-up with 10% aqueous HCl and EtOAc, and the crude material was purified by silica gel chromatography to give the desired product as a colorless oil (2 g).

reactant | 2-oxazolidone | 8.0 mmol, 0.69 g | O1[C-]=NC(C1)=O
reactant | sodium hydride | 9.4 mmol, 0.38 g | [H-].[Na+]
reactant | [3-(4-bromo-2-bromomethyl-phenoxy)-phenyl]-acetic acid methyl ester | 7.2 mmol, 3 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CBr)=O | C16H14Br2O3
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {3-[4-Bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 2 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C19H18BrNO5
